US06153750
Methyl 2-[2-(6-chloropyrimidin-4-yloxy)phenyl]-3,3-dimethoxypropanoate in methylcyclohexane/chloromethoxypyrimidine (185.5 g, 59.71% strength) was vacuum distilled to leave the propanoate melt. A solution of the potassium salt of 2-cyanophenol was then prepared by mixing 2-cyanophenol (49.0 g) and potassium carbonate (30.4 g) in water (50 g). This solution was added to the methyl 2-[2-(6-chloropyrimidin-4-yloxy)phenyl]-3,3-dimethoxypropanoate melt, which had previously been cooled to 70° C. The reaction solution was then heated to 120° C. and held for 2 hours. Any distillates were allowed to come off under atmospheric conditions. (E)-methyl 2-[2-(6-(2-cyanophenoxy)pyrimidin-4-yloxy)phenyl]-3-methoxypropenoate was produced (39.4 area %). The reaction solution was then distilled under vacuum (20 mmHg) at 95° C. for 2 hours and at 120° C. for 1 hour. No further demethanolysis was evident. The reagents were cooled to 95° C. before an additional amount of potassium carbonate (45.6 g) was charged. The solution was again distilled under vacuum (20 mmHg) at 95° C. for 20 minutes and at 120° C. for 20 mins. (E)-Methyl 2-[2-(6-(2-cyanophenoxy)pyrimidin-4-yloxy)phenyl]-3-methoxypropenoate was produced (55.6 area %).

reactant | potassium | [K] | K
reactant | 2-cyanophenol | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | 2-cyanophenol | 49.0 g | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | potassium carbonate | 30.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-[2-(6-chloropyrimidin-4-yloxy)phenyl]-3,3-dimethoxypropanoate | ClC1=CC(=NC=N1)OC1=C(C=CC=C1)C(C(=O)OC)C(OC)OC | C16H17ClN2O5
solvent | water | 50 g | O | H2O
product | (E)-methyl 2-[2-(6-(2-cyanophenoxy)pyrimidin-4-yloxy)phenyl]-3-methoxypropenoate | C(#N)C1=C(OC2=CC(=NC=N2)OC2=C(C=CC=C2)/C(/C(=O)OC)=C\OC)C=CC=C1 | C22H17N3O5
